US09023864B2
{4-Fluoro-7-[5-(1-phenyl-ethyl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}-acetic acid
The title compound was prepared using procedures described in EXAMPLE 8 from propyl (7-azido-4-fluoro-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and (1-methylprop-2-yn-1-yl)benzene prepared from (1-bromoethyl)benzene and ethynyltrimethylsilane. Separation of the resulting diastereoisomeric esters by flash chromatography using a gradient of 10-70% EA/Hex afforded 2 enantiomeric mixtures. The less polar enantiomeric mixture was resolved on chiral HPLC using a 4.6×250 mm Chiralpak AD column eluting with 20% iPrOH, 20% EtOH, 59.75% Hexanes and 0.25% Et3N at 1 mL/min and 254 nm. The resulting chiral esters (retention times=7.8 and 11.9 min) were hydrolyzed separately to afford EXAMPLE 32.1 and 32.2 respectively. The more polar enantiomeric mixture was resolved on chiral HPLC using a 4.6×250 mm Chiralcel OD column eluting with 20% MeOH, 20% EtOH, 60% Hexanes at 1 mL/min and 254 nm. The resulting chiral esters (retention times=9.6 and 10.5 min) were hydrolyzed separately to afford EXAMPLE 32.3 and 32.4 respectively. MS (+ESI) m/z: 419.2.

reactant | propyl (7-azido-4-fluoro-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=C(C=CC=C3C2CC(=O)OCCC)F)C1 | C17H19FN4O2
reactant | (1-methylprop-2-yn-1-yl)benzene | CC(C#C)C1=CC=CC=C1 | C10H10
reactant | (1-bromoethyl)benzene | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | ethynyltrimethylsilane | C(#C)[Si](C)(C)C | C5H10Si
product | {4-Fluoro-7-[5-(1-phenyl-ethyl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}-acetic acid | FC=1C=CC=C2C(=C3N(C12)CC(CC3)N3N=NC=C3C(C)C3=CC=CC=C3)CC(=O)O | C24H23FN4O2
